US05936098
A mixture of 3.0 g of 1-benzoyl-3-phenylindole, 0.33 g of 10% palladium-carbon catalyst, and 60 ml of acetic acid was stirred in hydrogen for six hours under the conditions of 60° C. and normal pressure, cooled, then filtered to remove the catalyst, and distilled to expel the acetic acid. The residue was alkalinized by addition of an aqueous sodium hydroxide solution and extracted with ethyl acetate. The ethyl acetate layer was dried over anhydrous magnesium sulfate, and then distilled to expel the ethyl acetate and obtain 2.94 g of 1-benzoyl-3-phenylindoline (97.4%) having a melting point of 127-129° C.

reactant | 1-benzoyl-3-phenylindole | 3.0 g | C(C1=CC=CC=C1)(=O)N1C=C(C2=CC=CC=C12)C1=CC=CC=C1 | C21H15NO
reactant | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-carbon | 0.33 g | [C].[Pd]
solvent | hydrogen | [H][H] | H2
product | 1-benzoyl-3-phenylindoline | 2.94 g, 97.4% | C(C1=CC=CC=C1)(=O)N1CC(C2=CC=CC=C12)C1=CC=CC=C1 | C21H17NO
